US09102614B2
Preparation of ethyl 2-(4-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate:
A solution of ethyl 2-tert-butoxy-2-(1-hydroxy-3-methylnaphthalen-2-yl)acetate (1.24 g, 3.92 mmol) in CHCl3 (20 mL) was treated with solid NaHCO3 (843 mg, 9.80 mmol). Then a solution of Br2 (750 mg, 4.70 mmol) in CHCl3 (5.0 mL) was added dropwise over 2 min at 23° C. After 30 min, the reaction was treated with 10% Na2S2O3 solution (10 mL). After maximum decolorization was achieved, the reaction was diluted with H2O (10 mL) and extracted with DCM (3×10 mL). Combined organic phases were dried (Na2SO4), filtered, and concentrated. The residue was treated with DCM and wet-loaded onto a silica gel column and purified by flash chromatography (ethyl acetate/hexanes) giving the desired product (1.50 g, 97% yield). 1H NMR (400 MHz, CDCl3) δ 9.18 (s, 1H), 8.28 (d, J=8.6 Hz, 1H), 8.20 (d, J=8.6 Hz, 1H), 7.56 (dd, J=8.6, 8.6 Hz, 1H), 7.45 (dd, J=8.6, 8.6 Hz, 1H), 5.60 (s, 1H), 4.24-4.06 (m, 2H), 2.77 (s, 3H), 1.31 (s, 9H), 1.20 (t, J=7.0 Hz, 3H).

reactant | ethyl 2-tert-butoxy-2-(1-hydroxy-3-methylnaphthalen-2-yl)acetate | 3.92 mmol, 1.24 g | C(C)(C)(C)OC(C(=O)OCC)C1=C(C2=CC=CC=C2C=C1C)O | C19H24O4
reactant | NaHCO3 | 9.80 mmol, 843 mg | C(=O)(O)[O-].[Na+]
reactant | Br2 | 4.70 mmol, 750 mg | BrBr | Br2
reactant | Na2S2O3 | 10 mL | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | CHCl3 | 20 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 5.0 mL | C(Cl)(Cl)Cl | CHCl3
solvent | H2O | 10 mL | O | H2O
product | ethyl 2-(4-bromo-1-hydroxy-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate | 1.50 g, 97% yield | BrC1=C(C(=C(C2=CC=CC=C12)O)C(C(=O)OCC)OC(C)(C)C)C | C19H23BrO4
